US05629295
(3β,5α,12β,25R)spirostan-3,12-diol-11-one
A glass lined reactor was charged with 12.4 Kg of (3β,5α,11β,25R)-11-bromospirostan-3-ol-12-one (24.34 mole), 33 gallons of 33 gallons of water and 7.5 Kg (189 mole, 7.75 eq) of sodium hydroxide pellets. The reaction was heated to reflux over 1.5 hours, maintained at reflux for 4.5 hours (pot temperature was 83° C.), then cooled to room temperature. TLC at this point indicated complete reaction.

reactant | (3β,5α,11β,25R)-11-bromospirostan-3-ol-12-one | 24.34 mole, 12.4 Kg | Br[C@@H]1[C@@H]2[C@]3(CC[C@@H](C[C@@H]3CC[C@H]2[C@@H]2C[C@H]3[C@H]([C@H](C)[C@]4(O3)CC[C@@H](C)CO4)[C@]2(C1=O)C)O)C | C27H41BrO4
reactant | sodium hydroxide | 189 mole, 7.5 Kg, 7.75 eq | [OH-].[Na+]
solvent | water | 33 gallons | O | H2O
product | (3β,5α,12β,25R)spirostan-3,12-diol-11-one | C[C@H]1[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]5C[C@H](CC[C@]5(C)[C@H]4C([C@H]([C@]23C)O)=O)O)O[C@]12CC[C@@H](C)CO2 | C27H42O5
